US08133995B2
1-{4-[4-amino-6-(methoxymethyl)-7-(4-methylmorpholin-3-yl)pyrrolo[2,1-f][1,2,4]triazin-5-yl]phenyl}-3-[2-fluoro-5-(trifluoromethyl)-phenyl]urea hydrochloride
A solution of Intermediate AB (N-{4-[4-amino-6-(methoxymethyl)pyrrolo[2,1-f][1,2,4]triazin-5-yl]-2-fluorophenyl}-N′-[2-fluoro-5-(trifluoromethyl)-phenyl]urea (200 mg, 0.42 mmol) and 4-methyl-3,6-dihydro-2H-1,4-oxazin-4-ium chloride (69 mg, 0.51 mmol) in DMF (5 mL) is allowed to stir for 1 h at rt. Volatiles are removed in vacuo, and the residue triturated with CH2Cl2, providing the desired compound.

reactant | N-{4-[4-amino-6-(methoxymethyl)pyrrolo[2,1-f][1,2,4]triazin-5-yl]-2-fluorophenyl}-N′-[2-fluoro-5-(trifluoromethyl)-phenyl]urea | 0.42 mmol, 200 mg | NC1=NC=NN2C1=C(C(=C2)COC)C2=CC(=C(C=C2)NC(=O)NC2=C(C=CC(=C2)C(F)(F)F)F)F | C22H17F5N6O2
reactant | 4-methyl-3,6-dihydro-2H-1,4-oxazin-4-ium chloride | 0.51 mmol, 69 mg | [Cl-].C[N+]=1CCOCC1
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-{4-[4-amino-6-(methoxymethyl)-7-(4-methylmorpholin-3-yl)pyrrolo[2,1-f][1,2,4]triazin-5-yl]phenyl}-3-[2-fluoro-5-(trifluoromethyl)-phenyl]urea hydrochloride | Cl.NC1=NC=NN2C1=C(C(=C2C2N(CCOC2)C)COC)C2=CC=C(C=C2)NC(=O)NC2=C(C=CC(=C2)C(F)(F)F)F | InChI=1S/C27H27F4N7O3.ClH/c1-37-9-10-41-13-21(37)23-18(12-40-2)22(24-25(32)33-14-34-38(23)24)15-3-6-17(7-4-15)35-26(39)36-20-11-16(27(29,30)31)5-8-19(20)28;/h3-8,11,14,21H,9-10,12-13H2,1-2H3,(H2,32,33,34)(H2,35,36,39);1H
